US05225596
(-)-5-Bromo-8-methoxy-2-(dicyclopropylmethylamino)tetralin ((-)-OSU327)
8-Methoxy-2-(di-cyclopropylmethylamino)tetralin (OSU427) (311 mg, 1.09 mmol) was brominated in EtOH with 1.5 ml of a solution containing 0.6 ml Br2 in 10 ml CH2Cl2). After night in room temperature, the solvent was evaporated and the raw product (HBr salt) was recrystallized from acetone/ether to give 311 mg of white crystals melting at 153°-154° C. αD20 =-51.2°. GC/MS shows M+/M+2 at m/e=363.10 (43.1%) and 365.00 (41.9%) and the base peak at m/e=160.05.

reactant | 8-Methoxy-2-(di-cyclopropylmethylamino)tetralin | 1.09 mmol, 311 mg | COC=1C=CC=C2CCC(CC12)NC(C1CC1)C1CC1 | C18H25NO
reactant | Br2 | 0.6 ml | BrBr | Br2
solvent | EtOH | CCO | C2H6O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (-)-5-Bromo-8-methoxy-2-(dicyclopropylmethylamino)tetralin | 311 mg | BrC1=C2CCC(CC2=C(C=C1)OC)NC(C1CC1)C1CC1 | C18H24BrNO
